US04420424
(B) Z-Glu(OBzl)-Val-Thr(But)-OBut)
25.7 g of H-Val-Thr(But)-OBut.HCl are reacted, in 250 ml of dimethylformamide, with 26.0 g of Z-Glu-(OBzl)-OH and 15 g of DCC in the presence of 9.5 g of HOBt. After stirring for 6 hours the mixture is filtered and the filtrate is evaporated to dryness in vacuo. The residue is taken up in ethyl acetate, the solution is washed as described under (A) and, after drying and evaporating off the solvent, 37.3 g of the title compound are obtained with a melting point of 140°-144° (decomposition). Elementary analysis correct (C, H and N).

reactant | H-Val-Thr(But)-OBut.HCl | 25.7 g | N[C@@H](C(C)C)C(=O)N[C@@H]([C@H](OC(C)(C)C)C)C(=O)OC(C)(C)C.Cl
reactant | Z-Glu-(OBzl)-OH | 26.0 g | C1=CC=C(C=C1)COC(=O)CC[C@@H](C(=O)O)NC(=O)OCC2=CC=CC=C2 | C20H21NO6
reactant | DCC | 15 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | HOBt | 9.5 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
product | Z-Glu(OBzl)-Val-Thr(But)-OBut | N([C@@H](CCC(OCC1=CC=CC=C1)=O)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H]([C@H](OC(C)(C)C)C)C(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C37H53N3O9
